US06825191B2
Step 1: Synthesis of Ethyl (2-nitrobenzyl)aminoacetate
6.35 g (45.4 mmol) of glycine ethyl ester hydrochloride, 2.45 g (11.3 mmol) of 2-nitrobenzyl bromide and 4.75 g (56.5 mmol) of sodium hydrogencarbonate were dissolved in ethanol, and the obtained solution was stirred at 70° C. overnight. The reaction solution was filtered, and the obtained filtrate was treated with ethyl acetate as the extracting solvent by an ordinary method to obtain the crude product. After the purification by the silica gel column chromatography, the title compound was obtained.

reactant | glycine ethyl ester hydrochloride | 45.4 mmol, 6.35 g | Cl.C(C)OC(CN)=O
reactant | 2-nitrobenzyl bromide | 11.3 mmol, 2.45 g | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | sodium hydrogencarbonate | 56.5 mmol, 4.75 g | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Ethyl (2-nitrobenzyl)aminoacetate | [N+](=O)([O-])C1=C(CNCC(=O)OCC)C=CC=C1 | C11H14N2O4
